US08748418B2
A solution of 3-chloro-6,7-dihydro-5H-[1]pyrindin-7-ol (570 mg, 3.36 mmol) in dimethylsulphoxide (17.7 ml) was treated at room temperature with triethylamine (2.81 ml, 20.2 mmol) followed by sulfur trioxide-pyridine complex (1.6 g, 10.1 mmol). The solution was stirred at room temperature for 1 hour. After completion, the reaction mixture was treated with water and extracted with dichloromethane. The combined organic layers were dried over sodium sulfate, then evaporated leaving a dark red liquid. The crude material was purified by flash chromatography on silica gel using a gradient of heptane/ethyl acetate=70:30 to 30:70 as the eluent. The 3-chloro-5,6-dihydro-[1]pyrindin-7-one was obtained as a pink solid (472 mg, 84%); (calculated) C8H6ClNO [167.60]; (found) [M+H]+=168.

reactant | 3-chloro-6,7-dihydro-5H-[1]pyrindin-7-ol | 3.36 mmol, 570 mg | ClC=1C=NC=2C(CCC2C1)O | C8H8ClNO
reactant | triethylamine | 20.2 mmol, 2.81 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylsulphoxide | 17.7 ml | CS(=O)C | C2H6OS
product | 3-chloro-5,6-dihydro-[1]pyrindin-7-one | ClC=1C=NC=2C(CCC2C1)=O | C8H6ClNO
